### ISSUE TITLE
`grind` timeouts with large `Nat`s

### ISSUE THREAD

**Issue by math-fehr** [leanprover/lean4#9854]
### Description

On lean version `4.23.0-nightly-2025-08-11`, the following proof timeout ([live.lean-lang link](https://live.lean-lang.org/#project=lean-nightly&codez=KYDwhgtgDgNsAEAKEAueA5MAXAlPNAqgJIB2WAzAEwB0AzgJYBeCAtPCPADzzFkBsAFjpMEKALzwARgE8AUPHgBzAE70SAE3gB7EjDlA)):
```
example (x: Nat) : UInt32.size - x < UInt64.size := by
  grind only
```

This seems to be due to the large values, as 
```
example (x: Nat) : 123 - x < 3425 := by
  grind only
```
is solved instantaneously, while
```
example (x: Nat) : 123 - x < 342542 := by
  grind only
```
already takes a few seconds.

### Versions

4.23.0-nightly-2025-08-11
Latest mathlib doesn't seem to have this problem when looking at `live.lean-lang`

**Comment by leodemoura** [comment]
fixed by #9865
